US04424359
Dichloro-(4-vinyl-6-methyl-2,2'-bipyridine)-platinum-II
A mixture of 0.830 g (2×10-3 mol) of potassium tetrachloroplatinate in 100 ml of water, 0.432 g (2.2×10-3 mol) of 4-vinyl-6-methyl-2,2'-bipyridine and 4 ml of 2 N hydrochloric acid is boiled for 30 minutes. After cooling, the yellow crystals which have precipitated are filtered off with suction. After concentration of the filtrate, further product is obtained. The product is recrystallised from N,N-dimethylacetamide/water.

reactant | potassium tetrachloroplatinate | 2×10-3 mol, 0.830 g | Cl[Pt-2](Cl)(Cl)Cl.[K+].[K+]
reactant | 4-vinyl-6-methyl-2,2'-bipyridine | 2.2×10-3 mol, 0.432 g | C(=C)C1=CC(=NC(=C1)C)C1=NC=CC=C1 | C13H12N2
reactant | hydrochloric acid | 2 N, 4 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | Dichloro-(4-vinyl-6-methyl-2,2'-bipyridine) platinum | ClC=1C(=C(C(=NC1C)C1=NC=CC=C1)Cl)C=C.[Pt] | InChI=1S/C13H10Cl2N2.Pt/c1-3-9-11(14)8(2)17-13(12(9)15)10-6-4-5-7-16-10;/h3-7H,1H2,2H3;
